US07279469B2
To tin chloride dihydrate (5.46 g, 24.2 mmol) in concentrated HCl (7 mL) at 0° C. was added 1-difluoromethoxy-2-isopropoxy-4-nitro-benzene (1.712 g, 6.92 mmol) in ethyl acetate (7 mL) and the reaction was stirred for 1 h. The reaction was adjusted to ˜pH7 with NaOH and was filtered through Celite, washing with ethyl acetate. The filtrate was separated and the aqueous phase was back extracted with ethyl acetate. The combined organic phase was washed with brine, dried (sodium sulfate) and evaporated. Purification by flash chromatography (SiO2) eluted with 2:8 ethyl acetate:hexanes provided 4-difluoromethoxy-3-isopropoxy-phenylamine (0.55 g, 37% yield, 57% yield based on recovered starting material) as an orange oil. 1H-NMR (CDCl3, 500 MHz) 6.94 (d, 1H), 6.41 (t, 1H), 6.31 (dd, 1H), 6.23 (d, 1H), 4.47 (m, 1H), 1.33 (d, 6H) ppm; MS (FIA) 218.2 (M+H); HPLC (Method A) 2.853 min.

reactant | tin chloride dihydrate | 24.2 mmol, 5.46 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | 1-difluoromethoxy-2-isopropoxy-4-nitro-benzene | 6.92 mmol, 1.712 g | FC(OC1=C(C=C(C=C1)[N+](=O)[O-])OC(C)C)F | C10H11F2NO4
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 7 mL | Cl | ClH
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | 4-difluoromethoxy-3-isopropoxy-phenylamine | 0.55 g, 37% yield | FC(OC1=C(C=C(C=C1)N)OC(C)C)F | C10H13F2NO2
